US09079853B2
5-chloro-1-(2-(piperidin-1-yl)ethyl)indoline-2,3-dione
Was prepared in an analogous manner to 1-propylindoline-2,3-dione using commercially available 5-chloroisatin (purchased from Fisher Scientific) and 1-(2-bromoethyl)piperidine (purchased from Fisher Scientific). 1H-NMR δ 7.55 (m, 2H), 6.95 (d, 1H), 3.84 (t, 2H), 2.58 (t, 2H), 2.46 (bs, 4H), 1.54 (m, 4H), 1.43 (m, 2H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-chloroisatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 1-(2-bromoethyl)piperidine | BrCCN1CCCCC1 | C7H14BrN
product | 5-chloro-1-(2-(piperidin-1-yl)ethyl)indoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCN1CCCCC1)=O)=O | C15H17ClN2O2
